US07214798B2
8.2. 3 {2-[1-(2-Quinolyl)-4-piperidyl]ethyl-1,3-oxazolidine-2,4-dione
The process is performed according to the procedure described in Example 5 (step 5.2). Starting with 2.22 g (8.65 mmol) of 2-[1-(2-quinolyl)-4-piperidyl]-ethanol, prepared in step 8.1, 2.50 g (9.52 mmol) of triphenylphosphine, 1.05 g (10.38 mmol) of 1,3-oxazolidine-2,4-dione and 1.75 g (8.65 mmol) of diisopropyl azodicarboxylate (DIAD), and after chromatography on silica gel, eluting with a 30/70 and then 40/60 mixture of ethyl acetate and cyclohexane, 2.63 g of product are obtained in the form of an amorphous white solid.

reactant | 2-[1-(2-quinolyl)-4-piperidyl]-ethanol | 8.65 mmol, 2.22 g | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)CCO | C16H20N2O
reactant | triphenylphosphine | 9.52 mmol, 2.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,3-oxazolidine-2,4-dione | 10.38 mmol, 1.05 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | diisopropyl azodicarboxylate | 8.65 mmol, 1.75 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 2-[1-(2-Quinolyl)-4-piperidyl]ethyl-1,3-oxazolidine-2,4-dione | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)CCN1C(OCC1=O)=O | C19H21N3O3
